datasets/10k__Tet_Int.csv
SMILES Labelled
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)C1=CC=CC=C1)C1=CC=CC=C1>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].C[NH:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C([H])=C([H])C([H])[O+:10]1([K])>>[O:10]([K])C([H])/C([H])=C([H])\C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].[H][O:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])C)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[Cl-:21] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C([H])[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](CC)[S]1 10=20;20,21=21"
"C1(C([O:21][C:20](O1)([O-:10])OCCCCCC)CC)C>>C(C(O[C:20](=[O:10])OCCCCCC)C)([O-:21])CC 10=20;20,21=21"
"[H][O:10][H].CC[NH+:21]=[C:20]([O][H])[O]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([O][H])[O]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C([H])C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O]C([H])C(CC)[S]1 10=20;20,21=21"
"CN([C:20](=[O:10])OCC)C.[O-:21]C>>CN([C:20]([O-:10])(OCC)[O:21]C)C 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)C([H])=C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)/C(C)=C([H])\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.[H][S:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)[H])[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)[H])CCCCCC 10=20;20,21=21"
"[O:10]([K])C(CC)/C(C)=C([C:20](C)=[O:21])/C>>[O-:21][C:20]1(C)[O+:10]([K])C(CC)C(C)=C1C 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[O-:10]C(C=CC=C1)=C1C(C)C([C:20]([H])=[O:21])[H]>>[O-:21][C:20]2([H])C(C(C)C3=C([O:10]2)C=CC=C3)[H] 10=20;20,21=21"
"CC1C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1>>CC1C(O[C:20](=[O:10])N1C)C1=CC=CC=C1.[O-:21][H] 10=20;20,21=21"
"[H]C1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC>>[H]C1C(O[C:20](=[O:10])N1C)CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)CCCCCC 10=20;20,21=21"
"[H][NH:10]C(C)C([H])[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C8=CC=CC=C8)[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(C)[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(OC)[OH+:10]C([H])C(O)C1C>>[OH:10]C([H])C(O)C([C:20](OC)=[OH+:21])C 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([K])C(C)C([H])C1C>>[O:10]([K])C(C)C([H])C([C:20]([H])=[O:21])C 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O+:10]([K])C(CC)C([H])=C1[H]>>[O:10]([K])C(CC)/C([H])=C([C:20](OC)=[O:21])/[H] 21=20;20,10=10"
